US05739132
6.3 g of n-butanesulfonyl chloride was added under ice cooling to 5.61 g of 2-amino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane and 4.1 g of triethyl amine suspended in 50 ml of chloroform, and the mixture was stirred for 1 hour. Diluted hydrochloric acid was added to the reaction mixture, the chloroform layer was collected by separation, washed and dried, and then the solvent was removed. The resulting crystals were recrystallized from tetrahydrofuran-isopropyl ether to obtain 6.40 g of 2-n-butylsulfonylamino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane.

reactant | n-butanesulfonyl chloride | 6.3 g | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
reactant | 2-amino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane | 5.61 g | NC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C13H15N3O
reactant | triethyl amine | 4.1 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-n-butylsulfonylamino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane | 6.40 g | C(CCC)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C17H23N3O3S
